US04647565
(i) N-{2-[4-(2-Chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxyethyl}-N-methyl-N'-(2-cyanophenyl)acetamidine
A mixture of 4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-2-(2-methylaminoethoxymethyl)-1,4-dihydropyridine (2.5 g.), ethyl N-(2-cyanophenyl)acetimidate (1.1 g.) and p-toluenesulphonic acid (0.1 g.) was heated at 150° C. for 4 hours, cooled, and then dissolved in chloroform. The solution was washed with sodium bicarbonate solution, water and dried over sodium sulphate. Evaporation of the solvent gave an oil which was chromatographed on silica gel. Elution with chloroform/hexane (1:1) gave the product as an oil (0.95 g.) which was used directly in the next stage.

reactant | 4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-2-(2-methylaminoethoxymethyl)-1,4-dihydropyridine | 2.5 g | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)COCCNC)C(=O)OCC | C21H27ClN2O5
reactant | ethyl N-(2-cyanophenyl)acetimidate | 1.1 g | C(#N)C1=C(C=CC=C1)N=C(C)OCC | C11H12N2O
reactant | p-toluenesulphonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-{2-[4-(2-Chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxyethyl}-N-methyl-N'-(2-cyanophenyl)acetamidine | 0.95 g | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)COCCN(C(C)=NC1=C(C=CC=C1)C#N)C)C(=O)OCC | C30H33ClN4O5
